US04623650
Ethyl 7-bromo-6,8-difluoro-4-hydroxyquinoline-3-carboxylate
A stirred mixture of 26 g of 3-amino-2,6-difluorobromobenzene and 27 g of diethyl ethoxymethylenemalonate was heated at 150° C. for 1 hour. After cooling, 100 ml of Dowtherm "A" (commercially available high boiling inert solvent mixture of diphenylether and dibenzofuran) was added and the mixture was heated under nitrogen at 260° C. for 1.5 hour. The mixture was cooled to room temperature and 200 ml of hexanes was added. The resulting precipitate was collected by filtration, washed with hexanes and dried to give a cream solid, m.p. 285° C., yield 78% (32.32 g).

reactant | 3-amino-2,6-difluorobromobenzene | 26 g | NC=1C(=C(C(=CC1)F)Br)F | C6H4BrF2N
reactant | diethyl ethoxymethylenemalonate | 27 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diphenylether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | dibenzofuran | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
solvent | Dowtherm | 100 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | Ethyl 7-bromo-6,8-difluoro-4-hydroxyquinoline-3-carboxylate | yield 78% | BrC1=C(C=C2C(=C(C=NC2=C1F)C(=O)OCC)O)F | C12H8BrF2NO3
